US06255502B1
Salbutamol caprate and gamma-cyclodextrin were complexed by the kneading method. Salbutamol caprate (2.409 g) and gamma-cyclodextrin (7.591 g) were blended together. Water (12 mL) was added and the mixture ground together in a mortar with a pestle to form a uniform paste. Grinding was continued for 30 minutes. The paste was then dried in a vacuum oven (40° C.; 0 bar) for 48 hours. The solid mass was broken up, passed through a 60 mesh screen and returned to the vacuum oven (40° C.; 0 bar) for 12 hours in order to ensure uniform drying of the complex. Analysis by HPLC for salbutamol base content, and Karl Fischer for moisture content gave the following results: % salbutamol base was 12.83%, and the moisture content was 7.92%. The complex was characterised by DSC, FT-IR and XRD. The solubility in aqueous solution was 3.2 mg/mL, and the pH of a saturated aqueous solution was 7.00.

reactant | Salbutamol caprate | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.[O-]C(=O)CCCCCCCCC
reactant | gamma-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
reactant | Salbutamol caprate | 2.409 g | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.[O-]C(=O)CCCCCCCCC
reactant | gamma-cyclodextrin | 7.591 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
solvent | Water | 12 mL | O | H2O
product | salbutamol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
